US07888364B2
2.5 g of 2-bromoacetamide was reacted with methyl 4-mercaptobenzoate via Procedure Q to afford methyl 4-(2-amino-2-oxoethylthio)benzoate. 2.6 g of methyl 4-(2-amino-2-oxoethylthio)benzoate was reacted via Procedure R to give methyl 4-(2-amino-2-oxoethylsulfonyl)benzoate. 1 g of methyl 4-(2-amino-2-oxoethylsulfonyl)benzoate was hydrolyzed via Procedure M to give 4-(2-amino-2-oxoethylsulfonyl)benzoic acid. 150 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-amino-2-oxoethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 4-(2-amino-2-oxoethylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 430.2 (M)+.

reactant | 2-bromoacetamide | 2.5 g | BrCC(=O)N | C2H4BrNO
reactant | methyl 4-mercaptobenzoate | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
product | methyl 4-(2-amino-2-oxoethylthio)benzoate | NC(CSC1=CC=C(C(=O)OC)C=C1)=O | C10H11NO3S
